US07186714B2
To a solution of N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-methoxyphenyl)imidazo[1,2-α]pyridin-8-amine (0.4 g, 0.9 mmol) in dichloromethane (10 mL) at −78° C. was added boron tribromide (2.6 mL, 1.0 M in dichloromethane, 2.6 mmol) dropwise. The resulting solution was allowed to warm to room temperature. After stirring for 15 hours at room temperature, the mixture was cooled to 0° C. and quenched by the addition of water and aqueous sodium bicarbonate. The mixture was extracted with ethyl acetate. The organic phase was dried (magnesium sulfate), filtered and concentrated to give a solid residue which was purified by silica gel chromatography (95:5 chloroform-methanol) to give 4-{8-(cyclopentylamino)-3-[2-(cyclopentylamino)-4-pyrimidinyl]imidazo[1,2-α]pyridin-2-yl}phenol as a solid (280 mg, 70%). 1H NMR (DMSO-d6): δ 9.63 (s, 1H), 8.86 (broad s, 1H), 8.07 (d, 1H), 7.37 (d, 2H), 7.30 (d, 1H), 6.80 (m, 3H), 6.30 (m, 2H), 5.60 (d, 1H), 4.19 (m, 1H), 3.89 (m, 1H), 1.9–2.1 (m, 4H), 1.4–1.9 (m, 12H); MS m/z 455 (M+1).

reactant | N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-methoxyphenyl)imidazo[1,2-α]pyridin-8-amine | 0.9 mmol, 0.4 g | C1(CCCC1)NC=1C=2N(C=CC1)C(=C(N2)C2=CC=C(C=C2)OC)C2=NC(=NC=C2)NC2CCCC2 | C28H32N6O
reactant | boron tribromide | 2.6 mmol, 1.0 M, 2.6 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-{8-(cyclopentylamino)-3-[2-(cyclopentylamino)-4-pyrimidinyl]imidazo[1,2-α]pyridin-2-yl}phenol | 280 mg, 70% | C1(CCCC1)NC=1C=2N(C=CC1)C(=C(N2)C2=CC=C(C=C2)O)C2=NC(=NC=C2)NC2CCCC2 | C27H30N6O
